US06509329B1
Synthesis of N,N′-bis[[4-(3,4,5-Trimethoxyphenyl)-pyrimidin-5-yl]methyl]piperazine
5-Chloromethyl-4-(3,4,5-trimethoxyphenyl)pyrimidine (250 mg) and piperazine (37 mg) were reacted in the same manner as in Example 1 to obtain the title compound as a free base.

reactant | 5-Chloromethyl-4-(3,4,5-trimethoxyphenyl)pyrimidine | 250 mg | ClCC=1C(=NC=NC1)C1=CC(=C(C(=C1)OC)OC)OC | C14H15ClN2O3
reactant | piperazine | 37 mg | N1CCNCC1 | C4H10N2
product | N,N′-bis[[4-(3,4,5-Trimethoxyphenyl)-pyrimidin-5-yl]methyl]piperazine | COC=1C=C(C=C(C1OC)OC)C1=NC=NC=C1CN1CCN(CC1)CC=1C(=NC=NC1)C1=CC(=C(C(=C1)OC)OC)OC | C32H38N6O6
